US04496558
A solution of 1.5 g. of 6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine, 2.0 g. of acetic anhydride and 20 ml. of pyridine was stirred at room temperature for 3 hours. The mixture was concentrated in vacuo and the residue washed with 3N hydrochloric acid, then water, to yield 3-acetyl-6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine melting at 64°-66°. This amide was reduced in ether with a 50% excess of lithium aluminum hydride at reflux for 6 hours. Upon decomposition of excess reducing agent, the reaction mixture was filtered and the ethereal filtrate dried over magnesium sulfate. The filtrate was treated with ethereal hydrogen chloride solution to precipitate 6-chloro-3-ethyl-2,3,4,5-tetrahydro-1H -3-benzazepine as the hydrochloride salt which melted at 274°-275° from absolute alcohol.

reactant | 6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=CC=2CCNCCC21 | C10H12ClN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-acetyl-6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC=C2Cl | C12H14ClNO
